US08110573B2
18B. Synthesis of 3-Chloro-5-(4-methyl-piperazin-1-yl)-benzoic acid
To 3-chloro-5-(4-methyl-piperazin-1-yl)-benzonitrile (1.4 g, 5.9 mmol) dissolved in ethanol (10 ml) was added 2M NaOH (20 ml) and reaction mixture was heated at reflux for 20 hours. The mixture was reduced in vacuo and the crude product was acidified in 1N HCl to pH 6 and partitioned between EtOAc and H2O. The organic layer was evaporated to dryness in vacuo to give 0.7 g of the title compound as a white solid (LC/MS: Rt 1.67, [M+H]+ 256, acidic method).

reactant | 3-chloro-5-(4-methyl-piperazin-1-yl)-benzonitrile | 5.9 mmol, 1.4 g | ClC=1C=C(C#N)C=C(C1)N1CCN(CC1)C | C12H14ClN3
reactant | NaOH | 2M, 20 ml | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | HCl | 1N | Cl | ClH
product | 3-Chloro-5-(4-methyl-piperazin-1-yl)-benzoic acid | 0.7 g | ClC=1C=C(C(=O)O)C=C(C1)N1CCN(CC1)C | C12H15ClN2O2
